US07199127B2
75 mg (0.09 mmol) of (2S,3S,4R,5R)-3,4-bis(tert-butyldimethylsilanyloxy)-5-[2-chloro-6-(3-iodobenzylamino)purin-9-yl]-tetrahydrothiophene-2-carboxylic acid methyl amide from the aforementioned Experimental Example 35 were dissolved in 5 mL of anhydrous tetrahydrofuran to which 0.25 mL (0.25 mmol, 1 mol tetrahydrofuran solution) of tetrabutylammonium fluoride was added. The reaction mixture was stirred at ambient temperature for 1 h. The reaction mixture was distilled under reduced pressure and the concentrate was purified by silica gel column chromatography using the eluant (dichloromethane:methanol=7:1) to obtain 33 mg (yield: 63%) of (2S,3S,4R,5R)-5-[2-chloro-6-(3-iodobenzylamino)purin-9-yl]-3,4-dihydroxytetrahydrothiophene-2-carboxylic acid methyl amide as white solids (see Table 3).

reactant | (2S,3S,4R,5R)-3,4-bis(tert-butyldimethylsilanyloxy)-5-[2-chloro-6-(3-iodobenzylamino)purin-9-yl]-tetrahydrothiophene-2-carboxylic acid methyl amide | 0.09 mmol, 75 mg | CNC(=O)[C@H]1S[C@H]([C@@H]([C@@H]1O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)N1C2=NC(=NC(=C2N=C1)NCC1=CC(=CC=C1)I)Cl | C30H46ClIN6O3SSi2
reactant | tetrabutylammonium fluoride | 0.25 mmol, 0.25 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | (2S,3S,4R,5R)-5-[2-chloro-6-(3-iodobenzylamino)purin-9-yl]-3,4-dihydroxytetrahydrothiophene-2-carboxylic acid methyl amide | 33 mg, yield: 63% | CNC(=O)[C@H]1S[C@H]([C@@H]([C@@H]1O)O)N1C2=NC(=NC(=C2N=C1)NCC1=CC(=CC=C1)I)Cl | C18H18ClIN6O3S
